US08283354B2
To a solution of (R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)butan-1-one (280 mg, 0.71 mmol) in CH2Cl2 under an N2 atmosphere was added a 2 M HCl solution in ether (0.355 mL, 0.71 mmol), followed by the addition of ether which resulted in the formation of precipitate which was stirred for an hour and then filtered and dried to afford (R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)butan-1-one hydrochloride (272 mg, 90%). LC/MS: m/z 393.1 (M+H)+ at 2.23 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.27 (dd, J=7.9, 1.6 Hz, 1H), 8.19 (d, J=8.4 Hz, 1H), 7.96 (m, 2H), 7.65 (m, 1H), 7.48 (m, 1H), 7.04 (m, 2H), 4.26 (dd, J=7.7, 4.8 Hz, 1H), 4.03 (m, 4H), 3.79 (m, 5H), 1.65 (m, 1H), 1.50 (m, 1H), 0.90 (t, J=7.4 Hz, 3H).

reactant | (R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)butan-1-one | 0.71 mmol, 280 mg | O[C@@H](C(=O)N1CCN(CC1)C1=NC(=NC2=CC=CC=C12)C1=C(C=CC=C1)O)CC | C22H24N4O3
reactant | HCl | 2 M | Cl | ClH
reactant | ether | 0.71 mmol, 0.355 mL | CCOCC | C4H10O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)butan-1-one hydrochloride | 272 mg, 90% | Cl.O[C@@H](C(=O)N1CCN(CC1)C1=NC(=NC2=CC=CC=C12)C1=C(C=CC=C1)O)CC | InChI=1S/C22H24N4O3.ClH/c1-2-18(27)22(29)26-13-11-25(12-14-26)21-15-7-3-5-9-17(15)23-20(24-21)16-8-4-6-10-19(16)28;/h3-10,18,27-28H,2,11-14H2,1H3;1H/t18-;/m1./s1
